US08754100B2
Synthesis of 2-(4-bromo-2-trifluoromethylphenyl)-5-chloropentanenitrile
A solution of (4-bromo-2-trifluoromethylphenyl)acetonitrile (2.28 g) in tetrahydrofuran (6 mL) was added to a suspension of sodium hydride (containing 60% in mineral oil, 362 mg) in tetrahydrofuran (12 mL) under ice-cooling. The mixture was stirred at the same temperature for 20 minutes. 1-Chloro-3-iodopropane (0.94 mL) was added dropwise to the reaction solution, and then the reaction solution was stirred at room temperature for 40 minutes. Ice water and heptane were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Wakogel™ C-200; elution solvent:heptane:ethyl acetate=49:1→19:1) to obtain 2.67 g of the title compound. The property values of the compound are as follows.

reactant | (4-bromo-2-trifluoromethylphenyl)acetonitrile | 2.28 g | BrC1=CC(=C(C=C1)CC#N)C(F)(F)F | C9H5BrF3N
reactant | sodium hydride | 362 mg | [H-].[Na+]
reactant | 1-Chloro-3-iodopropane | 0.94 mL | ClCCCI | C3H6ClI
reactant | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 2-(4-bromo-2-trifluoromethylphenyl)-5-chloropentanenitrile | 2.67 g | BrC1=CC(=C(C=C1)C(C#N)CCCCl)C(F)(F)F | C12H10BrClF3N
